US08497264B2
In a 1-L flask, the tert-butyl 2-(5-azido-3-bromo-7-iodo-5H-chromeno[2,3-b]pyridin-5-yl)acetate (7.27 g, 13.38 mmol) was suspended in THF (100 mL) and the suspension was cooled to 0° C. A THF solution of LAH (1 M, 20.08 mL, 20.08 mmol) was added. After 30 min, the reaction mixture was quenched with careful addition of water (0.75 mL), 4 M aqueous NaOH (2.2 mL), and water (0.75 mL). The mixture was filtered through Celite, rinsing with THF (60 mL), then with EtOAc (150 mL). The combined filtrate was concentrated. The residue was purified through silica gel (400 mL) which had been deactivated with Et3N (40 mL), using 100:100:1 EtOAc-hexane-Et3N, to afford 2-(5-amino-3-bromo-7-iodo-5H-chromeno[2,3-b]pyridin-5-yl)ethanol (2.24 g).

reactant | tert-butyl 2-(5-azido-3-bromo-7-iodo-5H-chromeno[2,3-b]pyridin-5-yl)acetate | 13.38 mmol, 7.27 g | N(=[N+]=[N-])C1(C2=CC(=CC=C2OC2=NC=C(C=C21)Br)I)CC(=O)OC(C)(C)C | C18H16BrIN4O3
reactant | LAH | 20.08 mmol, 1 M, 20.08 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-(5-amino-3-bromo-7-iodo-5H-chromeno[2,3-b]pyridin-5-yl)ethanol | 2.24 g | NC1(C2=CC(=CC=C2OC2=NC=C(C=C21)Br)I)CCO | C14H12BrIN2O2
